US05025009
A) (+)-5-(2,3-dihydrobenzofuran-7-yl)-7-hydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
6.55 g, (0.020 mol) (+)-5-(benzofuran-7-yl)-8-chloro-7-hydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine was dissolved in 1.0N sodium hydroxide (100 ml, 0.100 mol) and water (100 ml). 10% palladium-on-carbon (3.0 g) was added, and the resulting suspension was stirred under hydrogen at 20° C. and 100 kPa for 5 days. The reaction mixture was filtered and the filtercake was thoroughly washed with 0.3N hydrochloric acid (70 ml) and methanol (135 ml). The pH of the combined filtrate and washings was brought to 8.0 and the resulting suspension was filtered. The filtercake was washed with water/methanol (1/1) and dried in vacuo at 40° C. to give 3.45 g (76% of the theoretical yield) of the desired compound as white crystals.) M.p. 227°-30° C.

reactant | (+)-5-(benzofuran-7-yl)-8-chloro-7-hydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.020 mol | O1C=CC2=C1C(=CC=C2)C2CN(CCC1=C2C=C(C(=C1)Cl)O)C | C19H18ClNO2
reactant | sodium hydroxide | 0.100 mol, 1.0N, 100 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
catalyst | palladium-on-carbon | 3.0 g | [Pd] | Pd
product | (+)-5-(2,3-dihydrobenzofuran-7-yl)-7-hydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | O1CCC2=C1C(=CC=C2)C2CN(CCC1=C2C=C(C=C1)O)C | C19H21NO2
